US04257996
Using the procedure described in Preparation 7 but utilizing 184.4 g. (1.38 equivs.) of the polymethylene polyphenyl polyisocyanate, 7.97 g. (0.052 mole) of phosphoryl chloride and 9.67 g. (0.052 mole) of lauryl alcohol, there was obtained a solution of predominantly lauryl dichlorophosphate in polymethylene polyphenyl polyisocyanate which was used, without further treatment, in the preparation of a particle board as described in Example 1.

reactant | phosphoryl chloride | 0.052 mole | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | lauryl dichlorophosphate | P(=O)(OCCCCCCCCCCCC)(Cl)Cl | C12H25Cl2O2P
product | lauryl alcohol | 0.052 mole | C(CCCCCCCCCCC)O | C12H26O
